US07501433B2
2-thienylmethanol mesylate is prepared by treating a solution of 2-thienylmethanol (5.57 g; 50 mmol) in methylene chloride (100 ml) and triethylamine (15.05 g, 150 mmol) at 0° C. with methanesulfonyl chloride (11.45 g, 100 mmol) dropwise and at RT 1 hr after the addition. The reaction mixture is poured into ice-water and the organic layer is separated, dried (MgSO4), and evaporated.

reactant | 2-thienylmethanol | 50 mmol, 5.57 g | S1C(=CC=C1)CO | C5H6OS
reactant | triethylamine | 150 mmol, 15.05 g | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 100 mmol, 11.45 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 2-thienylmethanol mesylate | S(C)(=O)(=O)OCC=1SC=CC1 | C6H8O3S2
